datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]1[C:2]([H:8])=[C:3][C:4]([H:9])=[C:5]1[H:10])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:6])[C:4]([H:9])=[C:5]1[H:10])[H:7],458.202392
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[S:20]([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:21])([H:9])([H:10])[H:11].[S:20][H:22],13.3888
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11](=[S:12])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10]([C:11](=[S:12])[H:15])([H:13])[H:14],102.508
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:23])([H:24])[H:25])=[C:17]([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:20])([H:21])[H:22])([C:16]([H:23])([H:24])[H:25])[C:17]([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])[H:7])([H:5])[H:6],51.9653
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([C:15]([O:16][O:17])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:17][O:16][C:15]([C:14]([C:13]([C:12]([H:18])([H:19])[H:20])([H:21])[H:22])([H:23])[H:24])([H:25])[H:26],62.3416
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6])([H:16])[H:17])([H:7])([H:8])[H:9].[O:18][O:19][H:20]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6][H:20])([H:16])[H:17])([H:7])([H:8])[H:9].[O:18][O:19],-13.7026
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[O:11]([H:12])[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[O:11][H:13])[H:6])([H:4])[H:5].[H:12],213.908
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[H:21]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][H:21],6.276
[O:0]=[C:1][O:2][C:3]([O:4][O:5][H:8])([H:6])[H:7]>>[O:0]=[C:1]1[O:2][C:3]([H:6])([H:7])[O:4]1.[O:5][H:8],63.806
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10]([H:21])([H:22])[H:23])[c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:9]([C:8]([C:7](=[C:6]([H:17])[H:18])[H:19])[H:20])([C:10]([H:21])([H:22])[H:23])[c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:3],43.3044
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18])[H:4],10.1253
[C:0](=[C:1]([S:2][C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1]([S:2][H:10])[H:6])([H:4])[H:5].[C:3]([H:7])([H:8])[H:9],19.2464
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:4],72.5087
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]1([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:12],55.3125
[C:0]([c:1]1[c:2][c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[H:9]>>[C:0]([c:1]1[c:2]([H:7])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:8])[H:9],175.217552
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6].[O:12][O:13][H:14]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:11])([H:5])[H:6].[H:10][O:12][O:13][H:14],0.0
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:11])([H:9])[H:10].[O:2][O:3][H:12],63.1784
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][H:12])[C:4]([O:5][O:6][H:15])([H:13])[H:14])([H:7])[H:8]>>[C:0](=[C:1]([O:3][H:12])[C:4]([O:5][O:6][H:15])([H:13])[H:14])([H:7])[H:8].[C:2]([H:9])([H:10])[H:11],116.7336
